US08471005B2
Into a 8-dram vial, N-{2-[2-Methanesulfinyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methane sulfonamide (480 mg, 0.94 mmol) was added to heated solution of 19.10 M of Sodium hydroxide in Water (5.0 mL, 96 mmol) at 110° C. The reaction mixture was heated at 120° C. for 2 hours. 5 mL of Acetic acid was added to adjust pH to 5. The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and NH3 in methanol as eluant (2 to 15% methanol). The collected fractions afforded N-{2-[2-Hydroxy-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide as a red solid (195 mg, 45%).

reactant | N-{2-[2-Methanesulfinyl-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methane sulfonamide | 0.94 mmol, 480 mg | CS(=O)C1=NN2C(C=N1)=C(C=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)OCOCC[Si](C)(C)C | C21H30N4O5S2Si
reactant | Sodium hydroxide | 19.10 M | [OH-].[Na+]
reactant | Water | 96 mmol, 5.0 mL | O | H2O
solvent | Acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N-{2-[2-Hydroxy-5-(2-trimethylsilanyl-ethoxymethoxy)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 195 mg, 45% | OC1=NN2C(C=N1)=C(C=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)OCOCC[Si](C)(C)C | C20H28N4O5SSi
